US07173031B2
B) 4-(2-Fluoro-4-nitrophenoxy)-5-methyl-6-(2-morpholinoethoxy)pyrrolo[2,1-f][1,2,4]triazine
To a solution of 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-ol (55 mg, 0.18 mmol), 2-morpholinoethanol (47 mg, 0.36 mmol), and polymer-bound PPh3 (3.0 mmol/g, 167 mg, 0.50 mmol) in 1 mL of THF at room temperature was added DIAD (72 mg, 0.36 mmol). The mixture was stirred for 1 h and HPLC analysis indicated most of the starting material disappeared. The polymer was filtered off through Celite® and the filtrate was concentrated and purified by preparative HPLC to afford the title compound (50 mg, 67%). MS(ESI+) m/z 418.2 (M+H)+.

reactant | 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-ol | 0.18 mmol, 55 mg | FC1=C(OC2=NC=NN3C2=C(C(=C3)O)C)C=CC(=C1)[N+](=O)[O-] | C13H9FN4O4
reactant | 2-morpholinoethanol | 0.36 mmol, 47 mg | O1CCN(CC1)CCO | C6H13NO2
reactant | PPh3 | 0.50 mmol, 167 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.36 mmol, 72 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-(2-Fluoro-4-nitrophenoxy)-5-methyl-6-(2-morpholinoethoxy)pyrrolo[2,1-f][1,2,4]triazine | 50 mg, 67% | FC1=C(OC2=NC=NN3C2=C(C(=C3)OCCN3CCOCC3)C)C=CC(=C1)[N+](=O)[O-] | C19H20FN5O5
